US09163021B2
(1-Cyclopropyl-5-trifluoromethyl-1H-pyrazol-4-yl)-methanol
A solution of 1-cyclopropyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (Preparation 96, 1.4 g, 5.64 mmol) in dry toluene (25 mL) was cooled to −78° C. and DIBAL-H (11.8 mL of 1.2 M solution in toluene, 14.1 mmol) was added dropwise to it. The reaction mixture was stirred at −78° C. for 2 hours and poured into 2N HCl (10 mL). This was stirred for a further 4 hours at room temperature followed by extraction with EtOAc (2×25 mL) and the combined organic layers were washed with water (2×10 mL), brine (10 mL) dried (Na2SO4) and evaporated in vacuo to afford the title compound as off white solid (100%, 1.2 g).

reactant | 1-cyclopropyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 5.64 mmol, 1.4 g | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)C1CC1 | C10H11F3N2O2
reactant | DIBAL-H | 14.1 mmol, 1.2 M, 11.8 mL | CC(C)C[AlH]CC(C)C
reactant | HCl | 2N, 10 mL | Cl | ClH
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (1-Cyclopropyl-5-trifluoromethyl-1H-pyrazol-4-yl)-methanol | C1(CC1)N1N=CC(=C1C(F)(F)F)CO | C8H9F3N2O
